US06559255B2
C. Copolymer of t-butylacrylamide:4-styrenesulfonic Acid Sodium Salt 99:1 by Weight
In a 250 mL Morton flask (fitted with mechanical stirrer, thermometer, and oil bath heating) under argon atmosphere were combined 4-styrenesulfonic acid sodium salt hydrate (0.10 g), t-butylacrylamide (Aldrich, 9.9 g), α-olefin sulfonate surfactant (Rhodia, Rhodacal A-246/L, 12.5 g of a ca. 40% aqueous solution), and water (175 g). The mixture was stirred and heated in a 90° C. oil bath until an internal temperature of ca. 75° C. was obtained, and then solid initiator (K2S2O8, Aldrich, 0.20 g) was added all at once. The appearance of the aqueous monomer slurry changed quickly over a period of 1-4 minutes, with the solid dissolving to form a nearly transparent, bluish scattering emulsion. The mixture was stirred and heated in a 100° C. oil bath for an additional 2 h (internal temperature of 93° C.) to decompose the excess initiator. The mixture was cooled with stirring, and filtered to remove any suspended solid. Yield 196.2 g of emulsion, pH ca. 3 to pH paper, 8.07% solids, particle size=9.3 nm Rh, by DLS, (2nd cumulant analysis PDI=0.10).

reactant | 4-styrenesulfonic acid sodium salt hydrate | 0.10 g | O.[Na+].C=CC1=CC=C(C=C1)S(=O)(=O)[O-]
reactant | t-butylacrylamide | 9.9 g | C(C)(C)(C)C(C(=O)N)=C | C7H13NO
solvent | water | 175 g | O | H2O
product | t-butylacrylamide 4-styrenesulfonic Acid Sodium Salt | C(C)(C)(C)C(C(=O)N)=C.[Na+].C=CC1=CC=C(C=C1)S(=O)(=O)[O-] | InChI=1S/C8H8O3S.C7H13NO.Na/c1-2-7-3-5-8(6-4-7)12(9,10)11;1-5(6(8)9)7(2,3)4;/h2-6H,1H2,(H,9,10,11);1H2,2-4H3,(H2,8,9);/q;;+1/p-1
